US06555552B2
(1R*,2R*,5S*)-2-(3,5-bis(Trifluoromethyl)benzylamino)-1-phenyl-8-azabicyclo[3.2.1]octane Dihydrochloride
(1R*,2R*,5S*)-2-Amino-1-phenyl-8-azabicyclo[3.2.1]octane (Description 6; 97 mg, 0.48 mmol) and 3,5-bis(trifluoromethyl)benzaldehyde (121 mg, 0.5 mmol) were dissolved in 1,2-dichloroethane (10 mL) and treated with acetic acid (30 μL). The solution was stirred at room temperature for 16 hours then concentrated. The residue was taken up in methanol (10 mL) and treated with sodium cyanoborohydride (60 mg), then heated at 80° C. for 2 hours, concentrated in vacuo and the residue suspended in saturated sodium bicarbonate solution (10 mL). This was extracted with dichloromethane (2×10 mL) and the extracts dried (MgSO4), then concentrated. The residue was taken up in ethyl acetate (10 mL) and treated with ethereal hydrogen chloride (1M, 2 mL). The suspension formed was concentrated in vacuo and the solid remaining recrystallized from methanol/diethyl ether, to give the title compound as a white solid (167 mg, 0.33 mmol).

reactant | (1R*,2R*,5S*)-2-Amino-1-phenyl-8-azabicyclo[3.2.1]octane | 0.48 mmol, 97 mg | N[C@H]1[C@@]2(CC[C@H](CC1)N2)C2=CC=CC=C2 | C13H18N2
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 0.5 mmol, 121 mg | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | acetic acid | 30 μL | C(C)(=O)O | C2H4O2
reactant | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (1R*,2R*,5S*)-2-(3,5-bis(Trifluoromethyl)benzylamino)-1-phenyl-8-azabicyclo[3.2.1]octane Dihydrochloride | 0.33 mmol, 167 mg | Cl.Cl.FC(C=1C=C(CN[C@H]2[C@@]3(CC[C@H](CC2)N3)C3=CC=CC=C3)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C22H22F6N2.2ClH/c23-21(24,25)16-10-14(11-17(12-16)22(26,27)28)13-29-19-7-6-18-8-9-20(19,30-18)15-4-2-1-3-5-15;;/h1-5,10-12,18-19,29-30H,6-9,13H2;2*1H/t18-,19+,20+;;/m0../s1
